US08071592B2
(c) cis-(3RS,5RS)-5-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinecarboxylic Acid
To cis-(3RS,5RS)-5-hydroxy-1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinecarboxylic acid (0.78 g; 2.8 mmol) in CHCl3 was added Et3N (2.0 ml; 15 mmol), and tert-butyldimethylsilyl chloride (1.06 g; 7.0 mmol). The reaction was allowed to stir for 14 hours under N2 at room temperature. The reaction was diluted with 200 ml of CHCl3 and washed with saturated aqueous NaHCO3, 0.1 N aqueous HCl, saturated aqueous NH4Cl, and brine. The organic layer was dried with Na2SO4, and the solvents were removed to provide the desired compound (0.80 g; 73%) as a colorless oil.

reactant | cis-(3RS,5RS)-5-hydroxy-1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinecarboxylic acid | 2.8 mmol, 0.78 g | O[C@@H]1C[C@@H](CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)O | C14H17NO5
reactant | Et3N | 15 mmol, 2.0 ml | CCN(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 7.0 mmol, 1.06 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | cis-(3RS,5RS)-5-{[(1,1-Dimethylethyl)(dimethyl)silyl]oxy}-1-{[(phenylmethyl)oxy]carbonyl}-3-piperidinecarboxylic Acid | 0.80 g, 73% | CC(C)(C)[Si](O[C@@H]1C[C@@H](CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)O)(C)C | C20H31NO5Si
